US07411072B2
N-[3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylmethyl)-phenyl]-methanesulfonamide
Dissolve N-[3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide (100 mg, 0.265) in ethanol (25 mL) and add 10% Pd/C (56 mg). Pressurize to 60 psi with H2 and shake overnight at room temperature. Filter reaction through a pad of Celite and concentrate filtrate to 54 mg (54%) of white foam, mp 149.0° C. 1H NMR (CDCl3) δ 2.70 (s, 3H), 2.98 (br q, 2H), 3.28 (d, 2H), 3.40 (br q, 2H), 4.11 (br s, 1H), 6.16 (s, 1H), 6.58 (s, 1H), 6.82-7.20 (m, 11H); MS (S) 395 (M+Na), 376 (M−H). HPLC shows 94% purity.

reactant | N-[3-(10,11-dihydro-dibenzo[a,d]cyclohepten-5-ylidenemethyl)-phenyl]-methanesulfonamide | 100 mg | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)=CC=3C=C(C=CC3)NS(=O)(=O)C | C23H21NO2S
solvent | ethanol | 25 mL | C(C)O | C2H6O
catalyst | Pd/C | 56 mg | [Pd] | Pd
product | N-[3-(10,11-Dihydro-5H-dibenzo[a,d]cyclohepten-5-ylmethyl)-phenyl]-methanesulfonamide | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC=3C=C(C=CC3)NS(=O)(=O)C | C23H23NO2S
